US06040309
(E)-3-[4-(3-Pyridylmethoxy)phenyl]-2-propenoic Acid
An aqueous solution of 2M NaOH (165 ml) was added to a solution of (E)-3-[4-hydroxyphenyl]-2-propenoic acid (16.4 g, 100 mmol) in ethanol (100 ml). The mixture was stirred for 10 minutes, and then 3-(chloromethyl)-pyridine hydrochloride (19.7 g, 120 mmol) was added in portions. The mixture was stirred for 20 hours, and the solvents were evaporated under reduced pressure. Water was added and the suspension heated to give a solution. To this solution was added acetic acid, and the resultant precipitate was filtered and recrystallised from methanol to give the title compound as a colourless solid (15.6 g).

reactant | NaOH | 2M, 165 ml | [OH-].[Na+]
reactant | (E)-3-[4-hydroxyphenyl]-2-propenoic acid | 100 mmol, 16.4 g | OC1=CC=C(C=C1)/C=C/C(=O)O | C9H8O3
reactant | 3-(chloromethyl)-pyridine hydrochloride | 120 mmol, 19.7 g | Cl.ClCC=1C=NC=CC1
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (E)-3-[4-(3-Pyridylmethoxy)phenyl]-2-propenoic Acid | 15.6 g | N1=CC(=CC=C1)COC1=CC=C(C=C1)/C=C/C(=O)O | C15H13NO3
